US08729102B2
A) methyl 4-bromo-3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate
A mixture of methyl 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate (2.00 g), N-bromosuccinimide (1.43 g) and acetonitrile (50 mL) was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a white powder (2.20 g).

reactant | methyl 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate | 2.00 g | C(C)(C)(C)OC(=O)N[C@H](COC1=NNC(=C1)C(=O)OC)C | C13H21N3O5
reactant | N-bromosuccinimide | 1.43 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | methyl 4-bromo-3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate | 2.20 g | BrC=1C(=NNC1C(=O)OC)OC[C@H](C)NC(=O)OC(C)(C)C | C13H20BrN3O5
